### ISSUE TITLE
Make hierarchical state equality usable in proofs

### ISSUE THREAD

**Issue by febyeji** [verilog-proof/VerilLean#9]
## Problem

On `main` at `2fc5741` with Lean 4.28.0, the comparisons used by fixed-point iteration cannot be converted to propositional equality using `beq_iff_eq`:

```lean
import VerilLean.Lang.Semantics

open VerilLean.Lib VerilLean.Lang.Semantics

example (a b : HMap) : (a == b) = true ↔ a = b := by
  exact beq_iff_eq

example (a b : State) : (a == b) = true ↔ a = b := by
  exact beq_iff_eq
```

`lake env lean EqualityRepro.lean` fails with `failed to synthesize instance of type class LawfulBEq HMap` and the corresponding error for `State`.

## Expected behavior

Provide terminating, computable equality for nested `HMap` values and lawful Boolean comparison for `HMap` and `State`, so both examples typecheck. Preserve structural equality, including bit-vector width and signedness, array indices, field names, and list order. Concrete nested comparisons should also be checkable with `decide +kernel`.
